* source 12VTRY
V_V1         N14465 0  DC 12
X_U1         N14465 N14485 N14718 LM317
C_C1         N32549 0 20 IC=0
C_C2         N14465 0 1u 
R_R1         N14718 N14485 1 
X_U2         N14485 N15691 N14465 0 N15754 0 LM311
R_R2         N15691 N14465 1k 
R_R3         0 N15691 3k 
R_R5         N15754 N14465 330 
R_R7         N17421 N14465 1k 
D_D2         N17421 0 MEH_LED 
X_M2         N32549 N15754 N14485 IRF4905
D_D3         N339890 0 MEH_LED 
R_R8         N339890 N34055 500 
X_U3         N15754 N34055 N14465 0 N34055 LM741
** Floating/unmodeled pin fixups **
R__UC0001   0  0   {1/GMIN}
