* source DISCHARGINGCIRCUIT
C_C1         N17969 0 12 IC=12
R_R5         0 N17969  100k TC=0,0 
X_U1         N17969 N19242 N19260 LM317
R_R7         N19242 N19260  1k TC=0,0 
R_R8         0 N19242  4.7k TC=0,0 
C_C2         0 N19260 1n' 
I_I1         N19260 0 DC 1
